US08471005B2
To a mixture of 5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenylamine (480 mg, 1.8 mmol) in dry pyridine (4 mL, 50 mmol) was added at 0° C. methanesulfonyl chloride (160 uL, 2.1 mmol). The mixture was stirred for 2 h and was thrown to 3N HCl. The mixture was extracted from EtOAc. Combined organic was washed with brine and was dried. After solvent evaporation, the product, N-[5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide, was obtained as a yellow solid (591 mg, 96%). The solid was used directly for the next step.

reactant | 5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenylamine | 1.8 mmol, 480 mg | CC=1C=CC(=C(C1)N)C1=CC=C2C=NC(=NN21)SC | C14H14N4S
reactant | pyridine | 50 mmol, 4 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 2.1 mmol, 160 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 3N | Cl | ClH
product | N-[5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide | CC=1C=CC(=C(C1)NS(=O)(=O)C)C1=CC=C2C=NC(=NN21)SC | C15H16N4O2S2
